US05618965
With stirring (20 rpm), a turbine dryer is charged at room temperature with 8000 parts by weight of anhydrous sodium sulfate, 1602 parts by weight of 4-methylbenzaldehyde and 1149 parts by weight of hydroxylammonium sulfate. Following evacuation to 35 mbar, the mixture is heated to 80° C. and stirred at this temperature for 21/2 hours. It is subsequently heated at 125° C. at a pressure of 80 mbar and held for 10 minutes; the pressure is then reduced to 60 mbar and held for a further 20 minutes, during which a total of about 480 parts by weight of water are removed by distillation. The distillation of the nitrile is initiated and controlled by successive reduction of the pressure to 10 mbar and subsequent raising of the jacket temperature to 170° C. 1265 parts by weight of 4-methylbenzonitrile are obtained with a purity of over 98% (HPLC), and also 37 parts by weight of a mixed fraction essentially consisting of 4-methylbenzonitrile and 4-methylbenzaldehyde.

reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | hydroxylammonium sulfate | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
product | 4-methylbenzonitrile | CC1=CC=C(C#N)C=C1 | C8H7N
